US08871753B2
Step A: 3-[(5-Chloro-2-{[3-(2-hydroxyethyl)phenyl]amino}pyrimidin-4-yl)amino]phenol
The desired compound was prepared according to the procedure of Example D5, step B, using 2,5-dichloro-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine and 2-(3-aminophenyl)ethanol [Bioorg. Med. Chem. 2005, 13, 6703-6712] as the starting materials in 65% yield. LCMS for C18H18ClN4O2 (M+H)+: m/z=357.1.

reactant | 2,5-dichloro-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)OC1OCCCC1)Cl | C15H15Cl2N3O2
reactant | 2-(3-aminophenyl)ethanol | NC=1C=C(C=CC1)CCO | C8H11NO
product | 3-[(5-Chloro-2-{[3-(2-hydroxyethyl)phenyl]amino}pyrimidin-4-yl)amino]phenol | 65% yield | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCO)NC=1C=C(C=CC1)O | C18H17ClN4O2
